US05296602
Sodium borohydride (4.44 g. 0.12 mol) was added portionwise to a suspension of 2-nitro-4,5,6-trimethoxybenzaldehyde (24.2 g, 0.1 mol) in 200 ml during 0.5 hours at 5-10 ° C. in an ice-bath. The mixture was stirred for an additional 10 minutes, and the excess of NaBH4 was destroyed by addition of acetic acid. The mixture was then concentrated in vacuo to dryness, and the solid residue was triturated with water. The solid was collected by filtration, washed with water and recrystallized from ethanol to give 22.1 g (90.9%) of 2-hydroxymethyl-1-nitro-3,4,5-trimethoxybenzene; mp 69-70° C. 1H-NMR (CDCl3): δ2.89 (1H, b, exchangeable, OH) 3.94, 3.96, and 3.97 (each 3H, s, 3×OMe), 4.78 (2h, s, CH2), 7.38 (1H, s, H-6). Analyses: Calculated for C10H13NO6 : C, 49.38; H, 5.39; N, 5.76. Found: C, 49.44; H, 5.43; N, 5.79.

reactant | Sodium borohydride | 0.12 mol, 4.44 g | [BH4-].[Na+]
reactant | 2-nitro-4,5,6-trimethoxybenzaldehyde | 0.1 mol, 24.2 g | [N+](=O)([O-])C1=C(C=O)C(=C(C(=C1)OC)OC)OC | C10H11NO6
product | 2-hydroxymethyl-1-nitro-3,4,5-trimethoxybenzene | 22.1 g, 90.9% | OCC1=C(C=C(C(=C1OC)OC)OC)[N+](=O)[O-] | C10H13NO6
